US07371765B2
Using an analogous procedure to that described in Example 12, 4-chloro-6-cyano-7-(2-methoxyethoxy)quinoline (200 mg, 0.76 mmol) was reacted with 4-fluoro-5-hydroxy-2-methylindole (150 mg, 0.91 mmol), (prepared as described for the starting material in Example 11), in DMF (6 ml) to give 6-cyano-4-(4-fluoro-2-methylindol-5-yloxy)-7-(2-methoxyethoxy)quinoline (170 mg, 57%).

reactant | 4-chloro-6-cyano-7-(2-methoxyethoxy)quinoline | 0.76 mmol, 200 mg | ClC1=CC=NC2=CC(=C(C=C12)C#N)OCCOC | C13H11ClN2O2
reactant | 4-fluoro-5-hydroxy-2-methylindole | 0.91 mmol, 150 mg | FC1=C2C=C(NC2=CC=C1O)C | C9H8FNO
solvent | DMF | 6 ml | CN(C)C=O | C3H7NO
product | 6-cyano-4-(4-fluoro-2-methylindol-5-yloxy)-7-(2-methoxyethoxy)quinoline | 170 mg, 57% | C(#N)C=1C=C2C(=CC=NC2=CC1OCCOC)OC=1C(=C2C=C(NC2=CC1)C)F | C22H18FN3O3
